US06452030B1
After completion of the reaction, acrylic acid and di-n-pentylamine were assayed by gas chromatography. As a result, formation of 69.2 g (yield 95%) of N,N-di-n-pentyl-β-alanine was confirmed, with the rates of conversion of acrylic acid and di-n-pentylamine being 95% and 95%, respectively.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | di-n-pentylamine | C(CCCC)NCCCCC | C10H23N
product | N,N-di-n-pentyl-β-alanine | 69.2 g, yield 95% | C(CCCC)N(CCC(=O)O)CCCCC | C13H27NO2
